US05478811
a) Preparation of Boc-Val-Pro-Val-CF2CF3
To a stirred solution of Boc-Val-Pro-OH (1.10 g, 3.5 mmole) in CH2Cl2 (20 ml) under argon, cooled to -17° C., was added NMM (0.40 ml, 3.68 mmole). After 5 minutes, 1 equivalent (0.45 ml, 3.5 mmole) of IBCF was added and a light suspension formed several minutes later. After 20 minutes NMM (0.4 ml, 3.68 mmol) was added followed by a suspension of H-Val-CF2CF3.HCl (0.88 g, 3.50 mol) in CH2Cl2 (10 ml) plus CH3CN (10 ml) dropwise (from an addition funnel) over ca. 15 minutes. The reaction was stirred at -14° to -18° C. for 1 hour and then the cooling bath was removed. The reaction was allowed to warm to room temperature (ca. 40 min.) and diluted with CH2Cl2 (100 ml). The organic phase was washed with 1 N HCl (3×75 ml), satd. NaHCO3 (2×75 ml), and brine (50 ml). Drying (Na2SO4) and concentration gave a colorless oil which was placed under high vacuum to give the desired product as a white foam (1.59 g, 88%). Elemental analysis; calculated for C22H34F5N3O5 : % C=51.26, % H=6.65; % N=8.15. Found: % C=50.80, % H=6.57, % N=7.85.

reactant | Boc-Val-Pro-OH | 3.5 mmole, 1.10 g | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C15H26N2O5
reactant | NMM | 3.68 mmole, 0.40 ml | CN1CCOCC1 | C5H11NO
reactant | NMM | 3.68 mmol, 0.4 ml | CN1CCOCC1 | C5H11NO
reactant | H-Val-CF2CF3.HCl | 3.50 mol, 0.88 g | N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)F.Cl
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | Boc-Val-Pro-Val-CF2CF3 | 1.59 g, 88% | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)F)CCC1)C(=O)OC(C)(C)C | C22H34F5N3O5
